US04659516
N-n-hexyl-4-aminobutyramide
As above using 4-aminobutyric acid in place of glycine and n-hexylamine in place of n-heptylamine.

reactant | 4-aminobutyric acid | NCCCC(=O)O | C4H9NO2
reactant | n-hexylamine | C(CCCCC)N | C6H15N
product | N-n-hexyl-4-aminobutyramide | C(CCCCC)NC(CCCN)=O | C10H22N2O
